US04835152
Preparation of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine dihydrochloride
2.95 g (0.01 mole) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine is dissolved in 50 ml of 99.5% ethanol heated to boiling, then 1.77 ml (0.022 moles) of concentrated hydrochloric acid and 50 ml of benzene are added, and the solvent of the yellow reaction mixture is evaporated under reduced pressure. The residue is taken up in 20 ml of isopropanol, filtered off and dried at 60°-80° C. the crude product (3.7 g; decomposing and getting charred over 223° C.) is suspended in 30 ml of isopropanol heated to boiling (part of the product dissolves), after cooling the fine crystals are filtered off, washed and dried at 100°-120° C.

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 0.01 mole, 2.95 g | NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | C17H17N3O2
reactant | hydrochloric acid | 0.022 moles, 1.77 ml | Cl | ClH
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine dihydrochloride | Cl.Cl.NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | InChI=1S/C17H17N3O2.2ClH/c1-10-6-12-7-15-16(22-9-21-15)8-14(12)17(20-19-10)11-2-4-13(18)5-3-11;;/h2-5,7-8,10,19H,6,9,18H2,1H3;2*1H
